US06417200B1
A) N1-(4-cyanobenzoyl)-N2-(4-methyoxybenzoyl)-1,2-benzenediamine
Using a procedure similar to Example 1B except starting with N1-(4-methoxybenzoyl)-1,2-benzenediamine and 4-cyanobenzoyl chloride, the title compound was obtained as a solid (59%); MS(FD): 371.0.

reactant | N1-(4-methoxybenzoyl)-1,2-benzenediamine | COC1=CC=C(C(=O)NC=2C(=CC=CC2)N)C=C1 | C14H14N2O2
reactant | 4-cyanobenzoyl chloride | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
product | N1-(4-cyanobenzoyl)-N2-(4-methyoxybenzoyl)-1,2-benzenediamine | C(#N)C1=CC=C(C(=O)NC=2C(=CC=CC2)NC(C2=CC=C(C=C2)OC)=O)C=C1 | C22H17N3O3
